US04175127
4-(4-Fluorophenyl)-5-(4-Pyridyl)-2-(2-Propylthio)Imidazole
To 8.0 g of 4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole-2-thione in 100 ml of dimethylformamide was added 1.56 g of sodium hydride (50% in mineral oil). The mixture was stirred until the evolution of hydrogen ceased. At this point 3.9 g of isopropyl bromide was added with a syringe. After stirring for 3 hours the mixture was poured into water, filtered and air dried. Trituration with ether, filtering and drying gave 5.73 g. Recrystallizing a 3.0 g sample from ethanol gave 1.4 g of the title compound, m.p. 263°-264°.

reactant | 4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole-2-thione | 8.0 g | FC1=CC=C(C=C1)C=1NC(NC1C1=CC=NC=C1)=S | C14H10FN3S
reactant | sodium hydride | 1.56 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | isopropyl bromide | 3.9 g | C(C)(C)Br | C3H7Br
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-Fluorophenyl)-5-(4-Pyridyl)-2-(2-Propylthio)Imidazole | 1.4 g | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)SC(C)C | C17H16FN3S
